US04912115
2-[N-Methyl-N-((pyridin-3-yl)-methyl)-3-amino-propyl]-5,6-dimethyl-phthalimide
Prepared from 2-(2-formyl-ethyl)-5,6-dimethyl-phthalimide and 3-(methylamino-methyl)-pyridine analogously to Example 4.

reactant | 2-(2-formyl-ethyl)-5,6-dimethyl-phthalimide | C(=O)CCC12C(C(=O)NC1=O)C(=C(C=C2)C)C | C13H15NO3
reactant | 3-(methylamino-methyl)-pyridine | CNCC=1C=NC=CC1 | C7H10N2
product | 2-[N-Methyl-N-((pyridin-3-yl)-methyl)-3-amino-propyl]-5,6-dimethyl-phthalimide | CN(CCCC12C(C(=O)NC1=O)C(=C(C=C2)C)C)CC=2C=NC=CC2 | C20H25N3O2
